US04167638
The reaction of 4-methoxy-2-nitroaniline with ethyl trifluoroacetoacetate in polyphosphoric acid at 130°-140° gave 4-hydroxy-6-methoxy-8-nitro-2-trifluoromethylquinoline. The pure compound (tan crystals, mp 138°-140° ) was obtained in 27% yield following several crystallizations of the crude product from ligroin.

reactant | 4-methoxy-2-nitroaniline | COC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O3
reactant | ethyl trifluoroacetoacetate | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
product | 4-hydroxy-6-methoxy-8-nitro-2-trifluoromethylquinoline | 27% yield | OC1=CC(=NC2=C(C=C(C=C12)OC)[N+](=O)[O-])C(F)(F)F | C11H7F3N2O4
